US05378803
De-(1,1-dimethylethoxy)carbonylation of Boc-Leu-MePhe-NH2 and Boc-Leu-Mephe-NH2 (mixture of isomers, 3.7 g.) with hydrogen chloride in ethyl acetate (4.4N, 25 ml.) for 2 hr. at room temperature and isolation of the product by precipitation with ether gave H-Leu-MePhe-NH2 and H-Leu-Mephe-NH2 (mixture of isomers) hydrochloride salt (2.63 g., 85% yield, m.r. 124°-127° C.).

reactant | Boc-Leu-MePhe-NH2 | N([C@@H](CC(C)C)C(=O)N([C@@H](CC1=CC=CC=C1)C(=O)N)C)C(=O)OC(C)(C)C | C21H33N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 4.4N, 25 ml | C(C)(=O)OCC | C4H8O2
product | H-Leu-MePhe-NH2 | N[C@@H](CC(C)C)C(=O)N([C@@H](CC1=CC=CC=C1)C(=O)N)C | C16H25N3O2
